US07253196B2
5-Isopropyl-5-methyl-2-(pyridin-2-ylmethylamino)thiazol-4(5H)-one
Pyridin-2-ylmethanamine (0.22 mL, 2.1 mmol) was added to 2-bromo-2,3-dimethylbutanoyl isothiocyanate (240 mg, 1.1 mmol) at room temperature. The reaction was exothermic, and was stirred at room temperature for 15 min. CH2Cl2 (2 ml) was added, and the resulting precipitate was removed by filtration. The CH2Cl2 solution was concentrated, and the mixture was purified by silica gel column (gradient 1% (10% NH3 in MeOH) to 30% (10% NH3 in MeOH) in CH2Cl2) to give the title compound as an off-white solid (123 mg). Mass Spec.=m/z+ion 264.1 (M+H)

reactant | Pyridin-2-ylmethanamine | 2.1 mmol, 0.22 mL | N1=C(C=CC=C1)CN | C6H8N2
reactant | 2-bromo-2,3-dimethylbutanoyl isothiocyanate | 1.1 mmol, 240 mg | BrC(C(=O)N=C=S)(C(C)C)C | C7H10BrNOS
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 5-Isopropyl-5-methyl-2-(pyridin-2-ylmethylamino)thiazol-4(5H)-one | 123 mg | C(C)(C)C1(C(N=C(S1)NCC1=NC=CC=C1)=O)C | C13H17N3OS
